US06461389B1
Preparation of 1-[3-(2,4-Diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium Chloride Dihydrochloride
12.7 g of white crystals of 1-[3-(2,4-diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium chloride, dihydrochloride were obtained, melting with decomposition at above 260° C. (Kofler), and the elemental analysis of which, calculated for C13H21N4OCl3 was:

reactant | 1-[3-(2,4-diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium chloride | [Cl-].NC1=C(OCCC[N+]2=CN(C=C2)C)C=CC(=C1)N
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 1-[3-(2,4-Diaminophenoxy)propyl]-3-methyl-3H-imidazol-1-ium Chloride Dihydrochloride | 12.7 g | Cl.Cl.[Cl-].NC1=C(OCCC[N+]2=CN(C=C2)C)C=CC(=C1)N | InChI=1S/C13H19N4O.3ClH/c1-16-6-7-17(10-16)5-2-8-18-13-4-3-11(14)9-12(13)15;;;/h3-4,6-7,9-10H,2,5,8,14-15H2,1H3;3*1H/q+1;;;/p-1
